US07960394B2
8-Methoxy-3-methyl-2-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-quinazolin-4(3H)-one
The entitled compound was obtained according to the method of Example 77 but using 2-amino-3-methoxybenzoic acid, methylamine, 4-hydroxybenzaldehyde and 1-(3-bromopropyl)pyrrolidinium bromide.

reactant | 2-amino-3-methoxybenzoic acid | NC1=C(C(=O)O)C=CC=C1OC | C8H9NO3
reactant | methylamine | CN | CH5N
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 1-(3-bromopropyl)pyrrolidinium bromide | [Br-].BrCCC[NH+]1CCCC1
product | 8-Methoxy-3-methyl-2-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-quinazolin-4(3H)-one | COC=1C=CC=C2C(N(C(=NC12)C1=CC=C(C=C1)OCCCN1CCCC1)C)=O | C23H27N3O3
